US07300931B2
Synthesis of 4-(2-Pyridinyl)benzylalcohol:
4-(2-Pyridinyl)benzaldehyde (2 gm, 11 mmole), and NaBH4 (0.42 gm, 11 mmole) were stirred at room temperature for 2 hr, ethanol was evaporated, residue dissolved in ethyl acetate washed with saturated NaHCO3 solution, and saturated NaCl solution, dried using Na2SO4 and evaporated to produce white solid (1.5 gm, 75%).

reactant | 4-(2-Pyridinyl)benzaldehyde | 11 mmole, 2 gm | N1=C(C=CC=C1)C1=CC=C(C=O)C=C1 | C12H9NO
reactant | NaBH4 | 11 mmole, 0.42 gm | [BH4-].[Na+]
product | 4-(2-Pyridinyl)benzylalcohol | 1.5 gm, 75% | N1=C(C=CC=C1)C1=CC=C(CO)C=C1 | C12H11NO
